US06420549B1
3′-O-Allyl-5′-O-tert-butyldiphenylsilyl-N6-benzoyl-adenosine
2′/3′-O-allyl-N6-benzoyl adenosine (11.17 g, 27.84 mmol) was dried over P2O5 under vacuum at 40° C., then dissolved in dry CH2Cl2 (56 mL, sure seal from Aldrich). 4-dimethylaminopyridine (0.34 g, 2.8 mmol), triethylamine (23.82 mL, 167 mmol) and t-butyldiphenylsilyl chloride were added. The reaction mixture was stirred vigorously for 12 hr. Reaction was monitored by TLC (ethyl acetate:hexane 1:1). It was then diluted with CH2Cl2 (50 mL) and washed with water (3×30 mL). Dichloromethane layer was dried over anhydrous Na2SO4 and evaporated to dryness. Residue purified by flash chromatography (ethyl acetate:hexane 1:1 as eluent) to get the title compound as a white foam (8.85 g, 49%). Rf 0.35 (ethyl acetate:hexane, 1:1).

reactant | 3′-O-allyl-N6-benzoyl adenosine | 27.84 mmol, 11.17 g | C(C=C)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)O | C20H21N5O5
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine | 167 mmol, 23.82 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldiphenylsilyl chloride | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | CH2Cl2 | 56 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.8 mmol, 0.34 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3′-O-Allyl-5′-O-tert-butyldiphenylsilyl-N6-benzoyl-adenosine | 8.85 g, 49% | C(C=C)O[C@H]1[C@H]([C@@H](O[C@@H]1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)O | C36H39N5O5Si
